US06620961B1
3.00 g of 3-bromobenzylamine hydrochloride suspended in chloroform (20 ml) was mixed with 2.86 g of triethylamine at room temperature. The resulting solution was stirred under cooling with ice while 1.82 g of isopropyl chloroformate was added dropwise and then stirred at room temperature for 2 hours. After the reaction, the reaction solution was poured into saturated aqueous sodium chloride, and the organic layer was separated, dried over anhydrous magnesium sulfate and evaporated at ordinary pressure for removal of the solvent. The residue was purified by silica gel column chromatography to give 3.33 g of isopropyl N-(3-bromobenzyl)carbamate as a colorless transparent viscous liquid.

reactant | 3-bromobenzylamine hydrochloride | 3.00 g | Cl.BrC=1C=C(CN)C=CC1
reactant | triethylamine | 2.86 g | C(C)N(CC)CC | C6H15N
reactant | isopropyl chloroformate | 1.82 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | isopropyl N-(3-bromobenzyl)carbamate | 3.33 g | BrC=1C=C(CNC(OC(C)C)=O)C=CC1 | C11H14BrNO2
